US04654343
N-Methyl-N-[3-(3-amino-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide
A solution of 2.2 g of N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide and 1.5 g of thiosemicarbazide in 100 ml of ethanol was refluxed for 5 hours, then the solvent was removed in vacuo. To the residue was added 100 ml of glacial acetic acid, this mixture was refluxed 18 hours, then the acetic acid was removed in vacuo. Saturated aqueous sodium bicarbonate was added to neutralize the mixture which was then extracted with dichloromethane:methanol (9:1). The extract was washed with water, dried and evaporated. The residue was chromatographed on a silica gel column, eluting with dichloromethane:methanol (9:1). The product was crystallized from dichloromethane-hexane, giving 0.6 g of the desired compound as yellow crystals mp 196°-197° C.

reactant | N-methyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 2.2 g | CN(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C13H12ClN3O
reactant | thiosemicarbazide | 1.5 g | NNC(=S)N | CH5N3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Methyl-N-[3-(3-amino-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 0.6 g | CN(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)N | C14H14N6O
